US05646173
A solution of 9.73 g of 5'-methoxy-2',3'-dihydro-spiro[cyclo-pentane-1,1'-[1H]indene]-3'-one, 9.3 ml of 3-buten-2-ol and 100 mg of p-toluenesulfonic acid in 100 ml of 2,2-dimethoxy-propane was boiled under reflux for 90 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 7:1). In addition to 4.0 g of educt, there were obtained 6.24 g (51%) of (RS)-2'-(2-buten-1-yl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one as a yellow oil.

reactant | 5'-methoxy-2',3'-dihydro-spiro[cyclo-pentane-1,1'-[1H]indene]-3'-one | 9.73 g | COC=1C=C2C(CC3(C2=CC1)CCCC3)=O | C14H16O2
reactant | 3-buten-2-ol | 9.3 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 100 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2'-(2-buten-1-yl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one | 6.24 g, 51% | C(C=CC)C1C2(C3=CC=C(C=C3C1=O)OC)CCCC2 | C18H22O2
